US08487094B2
A mixture of (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one (250 mg, 0.6 mmol), 5-(methoxycarbonyl)pyridin-3-ylboronic acid (163 mg, 0.9 mmol), PdCl2(PPh3)2 (50 mg, 20%) and aqueous Cs2CO3 solution (2 M, 2 mL) in 1,4-dioxane (6 mL) was heated to reflux at 100° C. overnight under N2. The mixture was filtered, and the filtrate was extracted with EtOAc for 3 times. The combined organic layer was washed with brine, dried over Na2SO4 and concentrated to the crude product, which was purified by preparative HPLC to give methyl 5-(4-((S)-1-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate (220 mg, crude).

reactant | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one | 0.6 mmol, 250 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CCCO)C1=CC=C(C=C1)F)=O | C21H23BrFNO3
reactant | 5-(methoxycarbonyl)pyridin-3-ylboronic acid | 0.9 mmol, 163 mg | COC(=O)C=1C=C(C=NC1)B(O)O | C7H8BNO4
reactant | Cs2CO3 | 2 M, 2 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 5-(4-((S)-1-((R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-2-oxo-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate | 220 mg | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C=NC=C(C(=O)OC)C1)CCCO | C28H29FN2O5
